US05194619
4,7-Dimethylindene (1)
34.4 g (1.50 mol) of sodium were dissolved in 300 ml of absolute methanol. A mixture of 53.8 ml (43.6 g, 0.66 mol) of cyclopentadiene and 67.3 g (0.59 mol) of 2,5-hexanedione was slowly added dropwise at 0° C. When the addition had ended, the mixture was stirred at 0° C. for a further hour and then at room temperature for a further two hours. 200 ml of water and 300 ml of diethyl ether were added to the reaction mixture. The organic phase was separated off in a separating funnel and the aqueous phase was washed twice with 50 ml of diethyl ether each time. The combined organic phases were washed twice with 50 ml of water each time and then dried over sodium sulfate. The solvent was removed in vacuo and the oily residue was subjected to fractional distillation (48°-52° C., 0.1 torr). Yield 48.8 g (56 %). For the NMR data, see Table 1.

reactant | sodium | 1.50 mol, 34.4 g | [Na] | Na
reactant | cyclopentadiene | 0.66 mol, 53.8 ml, 43.6 g | C1=CC=CC1 | C5H6
reactant | 2,5-hexanedione | 0.59 mol, 67.3 g | CC(CCC(C)=O)=O | C6H10O2
reactant | water | 200 ml | O | H2O
solvent | methanol | 300 ml | CO | CH4O
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
product | 4,7-Dimethylindene | CC1=C2C=CCC2=C(C=C1)C | C11H12
